US08278282B2
To a cooled solution of oxalyl chloride (2.15 ml, 25.1 mmol, 1.3 equiv.) in DCM (20 ml) at −78° C. is added a solution of DMSO (2.85 ml, 36.5 mmol, 1.9 equiv.) in DCM (30 ml) and stirred at −78° C. for 30 mins. Then a solution of (3R,4S,5R)-5-(2,4-Dichlorobenzyloxymethyl)-4-(2,4-dichlorobenzyloxy)-2-methoxy-tetrahydrofuran-3-ol I-2 (9.6 g, 18.8 mmol, 1 equiv.) in DCM (50 ml) is added slowly and stirred at −78° C. for about 2 h. After that, triethylamine (15.8 ml, 114 mmol, 6.0 equiv.) is added to the reaction mixture and slowly brought to room temperature and stirred for 1 h. After the reaction is completed, the mixture is diluted with water (100 ml) and DCM (50 ml). The DCM layer is separated and washed with 1 N HCl solution and saturated brine, dried (anhyd Na2SO4), concentrated and purified by flash chromatography (hexane:ethyl acetate=70:30) to give (4R,5R)-5-(2,4-Dichlorobenzyloxymethyl)-4-(2,4-dichlorobenzyloxy)-2-methoxy-dihydrofuran-3-one I-3 as slightly yellow oil.

reactant | oxalyl chloride | 25.1 mmol, 2.15 ml, 1.3 equiv. | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | DMSO | 36.5 mmol, 2.85 ml, 1.9 equiv. | CS(=O)C | C2H6OS
reactant | (3R,4S,5R)-5-(2,4-Dichlorobenzyloxymethyl)-4-(2,4-dichlorobenzyloxy)-2-methoxy-tetrahydrofuran-3-ol | ClC1=C(COC[C@@H]2[C@H]([C@H](C(O2)OC)O)OCC2=C(C=C(C=C2)Cl)Cl)C=CC(=C1)Cl | C20H20Cl4O5
reactant | triethylamine | 114 mmol, 15.8 ml, 6.0 equiv. | C(C)N(CC)CC | C6H15N
solvent | DCM | 20 ml | C(Cl)Cl | CH2Cl2
solvent | DCM | 30 ml | C(Cl)Cl | CH2Cl2
solvent | DCM | 50 ml | C(Cl)Cl | CH2Cl2
solvent | water | 100 ml | O | H2O
solvent | DCM | 50 ml | C(Cl)Cl | CH2Cl2
product | (4R,5R)-5-(2,4-Dichlorobenzyloxymethyl)-4-(2,4-dichlorobenzyloxy)-2-methoxy-dihydrofuran-3-one | ClC1=C(COC[C@@H]2[C@H](C(C(O2)OC)=O)OCC2=C(C=C(C=C2)Cl)Cl)C=CC(=C1)Cl | C20H18Cl4O5
